US07199147B2
Tetrahydro-2H-pyran-4-ylamine monohydrochloride (228 mg, 1.66 mmol), triethylamine (0.5 ml, 3.59 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (367 mg, 1.91 mmol) and hydroxybenzotriazole (190 mg, 1.41 mmol) were added to a solution of 4-methyl-1H-indazole-5-carboxylic acid (225 mg, 1.28 mmol) in N,N-dimethylformamide (5.5 ml), and the resulting mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was diluted with ethyl acetate and washed with a saturated aqueous sodium hydrogencarbonate solution. A small amount of the insoluble material was collected by filtration and then dried to obtain 4-methyl-N-tetrahydro-2H-pyran-4-yl-1H-indazole-5-carboxamide (41 mg). The filtrate was extracted with ethyl acetate and chloroform, and the combined organic layer was dehydrated over magnesium sulfate and then filtered. The filtrate was concentrated and the resulting residue was suspended in chloroform. The resulting suspension was filtered and the precipitate was dried to obtain 4-methyl-N-tetrahydro-2H-pyran-4-yl-1H-indazole-5-carboxamide (134 mg, 52.7%).

reactant | Tetrahydro-2H-pyran-4-ylamine monohydrochloride | 1.66 mmol, 228 mg | Cl.O1CCC(CC1)N
reactant | triethylamine | 3.59 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 1.91 mmol, 367 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 1.41 mmol, 190 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 4-methyl-1H-indazole-5-carboxylic acid | 1.28 mmol, 225 mg | CC1=C2C=NNC2=CC=C1C(=O)O | C9H8N2O2
solvent | N,N-dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-N-tetrahydro-2H-pyran-4-yl-1H-indazole-5-carboxamide | 41 mg | CC1=C2C=NNC2=CC=C1C(=O)NC1CCOCC1 | C14H17N3O2
